US09283229B2
Step 1: Synthesis of 4-formyl-2-(trifluoromethyl)phenyl trifluoromethanesulfonate
To a mixture of 4-hydroxy-3-(trifluoromethyl)benzaldehyde (500 mg, 2.7 mmol), TEA (805 mg, 8.0 mmol) in anhydrous DCM (10 mL) was added Tf2O (820 mg, 2.9 mmol) drop wise at 0° C., and stirred at the same temperature for 30 mins. Followed a standard aqueous/EtOAc workup and purified by column chromatography (PE:EtOAc=10:1) to give product (560 mg, 66% yield).

reactant | 4-hydroxy-3-(trifluoromethyl)benzaldehyde | 2.7 mmol, 500 mg | OC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H5F3O2
reactant | Tf2O | 2.9 mmol, 820 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-formyl-2-(trifluoromethyl)phenyl trifluoromethanesulfonate | 560 mg, 66% yield | FC(S(=O)(=O)OC1=C(C=C(C=C1)C=O)C(F)(F)F)(F)F | C9H4F6O4S
